US08168821B2
Methyl 4-{4-[1-(2-ethoxy-2-oxoethyl)cyclopropyl]-2-formylbutyl}benzoate
1247 mg (5.79 mmol) of pyridinium chlorochromate (PCC) are added to a solution of 1680 mg (4.82 mmol) of methyl 4-[4-[1-(2-ethoxy-2-oxoethyl)cyclopropyl]-2-(hydroxymethyl)butyl]-benzoate in 100 ml of dichloromethane, and the mixture is stirred at room temperature for 12 hours. After complete conversion, 10 g of silica gel are added and the solvent is carefully removed to dryness under reduced pressure. The residue is purified by flash chromatography on silica gel (mobile phase: cyclohexane/ethyl acetate 4:1). This gives 1270 mg (76% of theory) of a colorless oil.

reactant | pyridinium chlorochromate | 5.79 mmol, 1247 mg | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | methyl 4-[4-[1-(2-ethoxy-2-oxoethyl)cyclopropyl]-2-(hydroxymethyl)butyl]-benzoate | 4.82 mmol, 1680 mg | C(C)OC(CC1(CC1)CCC(CC1=CC=C(C(=O)OC)C=C1)CO)=O | C20H28O5
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | Methyl 4-{4-[1-(2-ethoxy-2-oxoethyl)cyclopropyl]-2-formylbutyl}benzoate | C(C)OC(CC1(CC1)CCC(CC1=CC=C(C(=O)OC)C=C1)C=O)=O | C20H26O5
